US04088652
Preparation of 3-p-Fluorobenzoyl-1-(p-chlorophenyl)-3-azabicyclo[3.1.0]hexane
Following the procedure of Example 8, 19.35 g. of 1-p-chlorophenyl-3-azabicyclo[3.1.0]hexane, 10.59 g. of sodium carbonate and 15.8 g. of p-fluorobenzoyl chloride are reacted. Ether extraction of the reaction product gives a white solid, mp 130°-132° C.

reactant | 1-p-chlorophenyl-3-azabicyclo[3.1.0]hexane | ClC1=CC=C(C=C1)C12CNCC2C1 | C11H12ClN
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | p-fluorobenzoyl chloride | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
product | 3-p-Fluorobenzoyl-1-(p-chlorophenyl)-3-azabicyclo[3.1.0]hexane | FC1=CC=C(C(=O)N2CC3(CC3C2)C2=CC=C(C=C2)Cl)C=C1 | C18H15ClFNO
